US06211199B1
3.6 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(4-fluorobenzyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine
Combine 1-(3,4,5-trimethoxybenzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine (0.42 g, 0.9 mmol) and (1(4-fluorobenzyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine (0.49 g, 1.5 mmol), and N,N-diisopropylethylamine (0.40 mL, 2.3 mmol) in acetonitrile (12 mL). Heat to reflux. After 18 hours, pour the reaction mixture into ethyl acetate. Extract twice with water, saturated aqueous sodium bicarbonate solution, and aqueous sodium chloride solution. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on a short column of silica gel eluting sequentially with ethyl acetate and then 25% methanol/ethyl acetate. Evaporate the product containing fractions and partition between dichloromethane and 1/1 brine/water. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to give the title compound: Rf=0.38 silica gel, 25% methanol/ethyl acetate).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine | 0.9 mmol, 0.42 g | COC=1C=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC=CC=C2)C=C(C1OC)OC | C23H29NO7S
reactant | (1(4-fluorobenzyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | 1.5 mmol, 0.49 g | FC1=CC=C(CN2C(=NC3=C2C=CC=C3)NC3CCNCC3)C=C1 | C19H21FN4
reactant | N,N-diisopropylethylamine | 2.3 mmol, 0.40 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
product | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(4-fluorobenzyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)NC2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)C=C(C1OC)OC | C41H46FN5O4
